US08487108B2
To the solution of (2S)-2-hydrazinyl-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol (5.79 g, 0.033 mol) in MeOH (100 mL) was added Raney Ni. The flask was degassed and equipped with a hydrogen inflated balloon. The flask was dipped into an ultrasound bath filled with water and sonicated for 4 hr at rt until the starting material was completely consumed. The mixture was then filtered through celite, and the filter cake was washed with MeOH (2×30 mL). Removal under reduced pressure gave (2S)-2-amino-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol (5.4 g, 90%).

reactant | (2S)-2-hydrazinyl-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol | 0.033 mol, 5.79 g | N(N)[C@H](CO)CC1COCCC1 | C8H18N2O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | (2S)-2-amino-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol | 5.4 g, 90% | N[C@H](CO)CC1COCCC1 | C8H17NO2
